### PR TITLE
More backports from analysis

### PR DESCRIPTION
**Pull request by proux01**
Backport lemmas about floor and ceil.

##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] ~added corresponding documentation in the headers~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

**Comment by pi8027** [comment]
Can't we first refactor the proofs in Analysis involving floor, ceil, and trunc (to identify the lemmas we actually need)? Feel free to take math-comp/analysis#1432 over.

**Comment by proux01** [comment]
Seems pretty orthogonal to me. We can either merge this, then math-comp/analysis#1432 then do a further PR to backport the Num.truc lemmas or merge math-comp/analysis#1432 first and add a commit here with the additional Num.trunc lemmas.

**Comment by pi8027** [comment]
IMO, the proofs involving `floor`, `ceil`, and `trunc` in Analysis are generally too lengthy, and these lemmas are potentially too premature to be backported to MathComp.

**Comment by proux01** [comment]
@pi8027 added lemmas about trunc, feel free to experiment with them in analysis

**Comment by proux01** [comment]
Let's discuss this during next meeting: https://github.com/math-comp/math-comp/wiki/TopicsNextMeeting

File: algebra/archimedean.v [hunk 1]
```diff
@@ -243,6 +243,53 @@ apply: (iffP idP) => [|[n ->]]; rewrite // natrE => /eqP <-.
...
+Proof. by move/real_ge0P => [/trunc_itv/andP[]|/lt_le_trans->]. Qed.
+
+Lemma trunc_ge_nat x n : 0 <= x -> n%:R <= x = (n <= trunc x)%N.
+Proof.
+move=> /trunc_itv /andP[letx ltxt1]; apply/idP/idP => lenx.
+  by rewrite -ltnS -(ltr_nat R); apply: le_lt_trans ltxt1.
+by apply: le_trans letx; rewrite ler_nat.
+Qed.
+
+Lemma trunc_ge_natS x n : n.+1%:R <= x = (n.+1 <= trunc x)%N.
```
Comment (pi8027) [inline algebra/archimedean.v:259]:
```suggestion
Lemma trunc_ge_natS x n : n.+1%:R <= x = (n < trunc x)%N.
```
The name should be adapted too.

File: algebra/archimedean.v [hunk 2]
```diff
@@ -243,6 +243,53 @@ apply: (iffP idP) => [|[n ->]]; rewrite // natrE => /eqP <-.
...
+Proof.
+have := Def.truncP x; case: ifP => [x0 _ | x0 /eqP->].
+  by rewrite trunc_ge_nat.
+by rewrite ltn0; apply/(contraFF _ x0)/le_trans.
+Qed.
+
+Lemma trunc_lt_nat x n : 0 <= x -> x < n%:R = (trunc x < n)%N.
+Proof. by move=> ?; rewrite real_ltNge ?ger0_real// ltnNge trunc_ge_nat. Qed.
+
+Lemma real_trunc_lt_natS x n : x \is real -> x < n.+1%:R = (trunc x < n.+1)%N.
```
Comment (pi8027) [inline algebra/archimedean.v:269]:
```suggestion
Lemma real_trunc_lt_natS x n : x \is real -> x < n.+1%:R = (trunc x <= n)%N.
```

File: algebra/archimedean.v [hunk 3]
```diff
@@ -633,6 +756,12 @@ case/trunc_itv/andP: (normr_ge0 x) => _ /ltr_normlW xlt le_b_i.
 by rewrite (lt_le_trans xlt) // -natrX ler_nat (ltn_trans le_b_i) // ltn_expl.
 Qed.
 
+Lemma lt_succ_trunc x : x < (trunc x).+1%:R.
+Proof. exact: real_lt_succ_trunc. Qed.
+
+Lemma trunc_lt_natS x n : x < n.+1%:R = (trunc x < n.+1)%N.
```
Comment (pi8027) [inline algebra/archimedean.v:762]:
```suggestion
Lemma trunc_lt_natS x n : x < n.+1%:R = (trunc x <= n)%N.
```

File: algebra/archimedean.v [hunk 4]
```diff
@@ -243,6 +243,53 @@ apply: (iffP idP) => [|[n ->]]; rewrite // natrE => /eqP <-.
 by exists (trunc x).
 Qed.
 
+Lemma ge_trunc x : (trunc x)%:R <= x = (0 <= x).
+Proof. by have := (Def.truncP x); case: ifP => [+ /andP[] | + /eqP->//]. Qed.
+
+Lemma real_lt_succ_trunc x : x \is Rreal -> x < (trunc x).+1%:R.
```
Comment (pi8027) [inline algebra/archimedean.v:249]: I think this lemma can be generalized to:
```coq
forall x, (x < (trunc x).+1%:R) = (x \is real)
```
and then it applies to the case where `x \is real` does not hold.

A general point of dissatisfaction would be that many lemmas assume a condition like `x \is real` or `0 <= x` and do not apply to the case where it does not hold.

File: algebra/archimedean.v (hunk 1 above)
Comment (proux01) [reply algebra/archimedean.v]: Indeed

**Comment by proux01** [comment]
One thing I'm unsure is that in some lemmas, trunc/floor/ceil appears on the right of the equality
```Coq
floor_ge_int x n : n%:~R <= x = (n <= floor x)
```
whereas in most cases it appears on the left
```Coq
floor_eq x n : floor x == n = (n%:~R <= x < (n + 1)%:~R)
floor_ge0 x : 0 <= floor x = (0 <= x)
```
I guess we should be consistent and always put it on the left?

File: algebra/archimedean.v (hunk 4 above)
Comment (pi8027) [reply algebra/archimedean.v:249]: IMO, we should put reasonable effort into exploring this kind of possibility in MC Analysis before backporting these lemmas.

**Review by CohenCyril — COMMENTED** [review]
We should have parentheses on LHS of equalities.

**Review by pi8027 — CHANGES_REQUESTED** [review]
The changes made here have to be tested in MC Analysis before merging this PR.

**Comment by affeldt-aist** [comment]
> > Can't we first refactor the proofs in Analysis involving floor, ceil, and trunc (to identify the lemmas we actually need)? Feel free to take [math-comp/analysis#1432](https://github.com/math-comp/analysis/pull/1432) over.
> 
> I share this feeling that lemmas added to MathComp should be judged on their relevance in MathComp-Analysis proofs. This is maybe the main place where they were used a lot and I remember that I unfortunately had to repeat detours when dealing with them. Certainly, better efforts should have been made when first using them. @pi8027 did generalize some of them and did simplify proofs but some generalizations didn't strike me as easy-to-use when in turn I tried to use them. Adding more lemmas based on our experience alone might generate lemmas that might be hard to replace after the fact, when we realize that they could have been better shaped.

It would help me if we could take some time in the near future (say, 1h visio?) to walk through one or two MathComp-Analysis proofs to sort out the right design principles. I definitely didn't spend enough time to memorize all the pros and cons and I fear I need to load my PFC with them before providing more concrete inputs. :-(

File: algebra/archimedean.v (hunk 4 above)
Comment (affeldt-aist) [reply algebra/archimedean.v:249]: iirc, some lemmas expressed as Leibniz equalities of Boolean inequalities are indeed more general but are a bit more difficult to use when you want to perform `rewrite`s in your goal because they break the flow of `rewrite`s, making the scripts a bit longer, and thus cancelling a part of the effect of having more general statements (sorry for not providing a more concrete example).

**Comment by affeldt-aist** [comment]
(or maybe we are going to fast backporting these lemmas from MathComp-Analysis before they stabilize?)

File: algebra/archimedean.v (hunk 4 above)
Comment (proux01) [reply algebra/archimedean.v:249]: This would indeed require a precise example. I can see how things like `(_ == _) = _` can be cumbersome to use with combinations of eqP, eqbLR and eqbRL but that's less obvious for inequalities.
I also agree that things like `floor_itv x : `(floor x)%:~R <= x < (floor x + 1)%:~R` are inconvenient to use with rewrite, and that's why there are two split lemmas `ge_floor x : (floor x)%:~R <= x` and `lt_succ_floor x : x < (floor x + 1)%:~R`
And sure things like the later trunc_itv above would be nightmarish to use (in addition to the fact that the left to right direction is very likely not very useful).

**Comment by proux01** [comment]
Quite the contrary, we are probably way too slow here. This whole floor/ceil business feels like a construction site for years, which is a pain for users and even for us. We have to constantly come back to it while we've long forgotten the previous details. Some lemmas have already been backported to MC *and released*, others generalized, without getting a complete set of lemmas like we usually try to do in mathcomp.

We should try to avoid letting lemmas linger in Analysis's file mathcomp_extra.v for too long (ideally no more than a few months between introduction and backport). Maybe we would need a separate file, something like mathcomp_extra_notready.v, for those lemmas that we don't trust are in a good enough shape for backporting and that should *only* be used inside analysis (maybe they should not even be mentionned in the changelog).

Anyway, looks like the details should now be handled in https://github.com/math-comp/analysis/pull/1531

**Comment by affeldt-aist** [comment]
Maybe we should impose ourselves to (almost) empty the `mathcomp_extra.v` at each release of MathComp-Analysis or make it a recurrent topic of the MathComp meeting (although originally this was a target for the sharing days).

**Comment by pi8027** [comment]
> It would help me if we could take some time in the near future (say, 1h visio?) to walk through one or two MathComp-Analysis proofs to sort out the right design principles. I definitely didn't spend enough time to memorize all the pros and cons and I fear I need to load my PFC with them before providing more concrete inputs. :-(

Can you first spend some time taking a look at what I did in math-comp/analysis#1407, math-comp/analysis#1411, math-comp/analysis#1415, and math-comp/analysis#1432 and propagating these changes to the rest of MCA?

**Comment by affeldt-aist** [comment]
> > It would help me if we could take some time in the near future (say, 1h visio?) to walk through one or two MathComp-Analysis proofs to sort out the right design principles. I definitely didn't spend enough time to memorize all the pros and cons and I fear I need to load my PFC with them before providing more concrete inputs. :-(
> 
> @affeldt-aist Can you first spend some time taking a look at what I did in [math-comp/analysis#1407](https://github.com/math-comp/analysis/pull/1407), [math-comp/analysis#1411](https://github.com/math-comp/analysis/pull/1411), [math-comp/analysis#1415](https://github.com/math-comp/analysis/pull/1415), and [math-comp/analysis#1432](https://github.com/math-comp/analysis/pull/1432) and propagating these changes to the rest of MCA?

I would like to make this during the sharing day.

**Comment by proux01** [comment]
> Can you first spend some time taking a look at what I did in [math-comp/analysis#1407](https://github.com/math-comp/analysis/pull/1407), [math-comp/analysis#1411](https://github.com/math-comp/analysis/pull/1411), [math-comp/analysis#1415](https://github.com/math-comp/analysis/pull/1415), and [math-comp/analysis#1432](https://github.com/math-comp/analysis/pull/1432) and propagating these changes to the rest of MCA?

[math-comp/analysis#1407](https://github.com/math-comp/analysis/pull/1407) and [math-comp/analysis#1411](https://github.com/math-comp/analysis/pull/1411) seem pretty unrelated

**Comment by pi8027** [comment]
> > Can you first spend some time taking a look at what I did in [math-comp/analysis#1407](https://github.com/math-comp/analysis/pull/1407), [math-comp/analysis#1411](https://github.com/math-comp/analysis/pull/1411), [math-comp/analysis#1415](https://github.com/math-comp/analysis/pull/1415), and [math-comp/analysis#1432](https://github.com/math-comp/analysis/pull/1432) and propagating these changes to the rest of MCA?
> 
> [math-comp/analysis#1407](https://github.com/math-comp/analysis/pull/1407) and [math-comp/analysis#1411](https://github.com/math-comp/analysis/pull/1411) seem pretty unrelated

Since the archimedean structures inherit from some structures in ssralg, the proofs involving floor/ceil/trunc may still benefit from this kind of refactoring work.

**Comment by proux01** [comment]
@pi8027 your request should now be taken into account in https://github.com/math-comp/analysis/pull/1531

File: algebra/archimedean.v [hunk 5]
```diff
@@ -232,21 +232,60 @@ Lemma natrK : cancel (GRing.natmul 1) truncn.
...
 
 Lemma natrP x : reflect (exists n, x = n%:R) (x \is a nat_num).
 Proof.
-apply: (iffP idP) => [|[n ->]]; rewrite // natrE => /eqP <-.
+apply: (iffP idP) => [|[n ->]]; rewrite // natrEtruncn => /eqP <-.
 by exists (truncn x).
 Qed.
 
+Lemma truncn_le x : (truncn x)%:R <= x = (0 <= x).
+Proof. by have := (Def.truncnP x); case: ifP => [+ /andP[] | + /eqP->//]. Qed.
```
Comment (pi8027) [inline algebra/archimedean.v:251]: I guess we don't need the parentheses here:
```suggestion
Proof. by have := Def.truncnP x; case: ifP => [+ /andP[] | + /eqP->//]. Qed.
```
